US07371743B2
(a) 4-(piperazin-1-yl)-3-trifluoromethyl-benzoic acid
37.9 g (195 mmol) piperazine hexahydrate are refluxed for 2 hours with 12.4 g (66 mmol) 4-fluoro-3-trifluoromethyl-benzonitrile suspended in 40 ml of ethanol. Then 13.7 ml (261 mmol) 50% sodium hydroxide solution and 13.7 ml of water are added and the mixture is refluxed for a further 3.5 hours and kept at ambient temperature for a further 15 hours. Then 43.5 ml of conc. hydrochloric acid are added and the mixture is cooled to 10° C. for 30 minutes with stirring. The precipitate obtained is suction filtered, washed with a little water and dried at 40° C. in the circulating air dryer for 24 hours.

reactant | piperazine hexahydrate | 195 mmol, 37.9 g | O.O.O.O.O.O.N1CCNCC1
reactant | 4-fluoro-3-trifluoromethyl-benzonitrile | 66 mmol, 12.4 g | FC1=C(C=C(C#N)C=C1)C(F)(F)F | C8H3F4N
reactant | sodium hydroxide | 261 mmol, 13.7 ml | [OH-].[Na+]
reactant | hydrochloric acid | 43.5 ml | Cl | ClH
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | water | 13.7 ml | O | H2O
product | 4-(piperazin-1-yl)-3-trifluoromethyl-benzoic acid | N1(CCNCC1)C1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C12H13F3N2O2
